US05409943
(a) 2-Amino-3-(2-chlorobenzyloxy)pyridine
A mixture of 2-chlorobenzyl chloride (47.6 g, 0.296 mol) and 2-amino-3-hydroxypyridine (29.6 g, 0.269 mol) in 40% aqueous sodium hydroxide solution (200 ml) and dichloromethane (200 ml) was treated with Adogen 464 (5 ml) and stirred vigorously at room temperature for 16 hours. A further 200 ml of water was added and the product extracted into dichloromethane, dried, the solvent evaporated and the residue triturated with petroleum ether to obtain the product (32 g, 46%), m.p. 95°-100° C.

reactant | 2-chlorobenzyl chloride | 0.296 mol, 47.6 g | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
reactant | 2-amino-3-hydroxypyridine | 0.269 mol, 29.6 g | NC1=NC=CC=C1O | C5H6N2O
reactant | water | 200 ml | O | H2O
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | Adogen 464 | 5 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
product | 2-Amino-3-(2-chlorobenzyloxy)pyridine | 32 g, 46% | NC1=NC=CC=C1OCC1=C(C=CC=C1)Cl | C12H11ClN2O
